US07423052B2
Description 42: (RS)-1-(tert-butyloxycarbonyl)-2-((5-(4fluorophenyl)-furan-2-yl)carbonyl)piperidine
To a stirred solution of 2-(4-fluorophenyl)-furan (1.8 g, 11.1 mmol) in THF (100 ml) at −35° C. was added n-butyl lithium (2.5M in THF) (4.54 ml, 11.4 mmol) over 3 min. The resultant mixture was stirred for 10 min. at −35° C. and then (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)piperidine (3.09 g, 11.4 mmol) in THF (10 ml) was added over 1 min. The resultant solution was stirred for 15 min. at −35° C. and then poured into saturated ammonium chloride (120 ml) and extracted with ethyl acetate (3×50 ml). The combined organics were washed with saturated aqueous sodium hydrogen carbonate (50 ml) and evaporated in vacuo. The residue was chromatographed on silica gel eluting with 10% ethyl acetate in hexane to give the title compound as a golden oil (3.59 g, 85%).

reactant | 2-(4-fluorophenyl)-furan | 11.1 mmol, 1.8 g | FC1=CC=C(C=C1)C=1OC=CC1 | C10H7FO
reactant | n-butyl lithium | 11.4 mmol, 2.5M, 4.54 ml | C(CCC)[Li]
reactant | (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)piperidine | 11.4 mmol, 3.09 g | C(C)(C)(C)OC(=O)N1C(CCCC1)C(N(C)OC)=O | C13H24N2O4
reactant | ammonium chloride | 120 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (RS)-1-(tert-butyloxycarbonyl)-2-((5-(4fluorophenyl)-furan-2-yl)carbonyl)piperidine | 3.59 g, 85% | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)C=1OC(=CC1)C1=CC=C(C=C1)F | C21H24FNO4
